Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, vomiting
 
Major Surgical or Invasive Procedure:
nasogastric tube placement

 
History of Present Illness:
Ms. ___ is a ___ s/p TLH, RSO, LOA, cysto, repair of ___ 
degree perineal laceration, oversew of the rectosigmoid serosa 
and small bowel on ___ who presents as transfer from 
___ for small bowel obstruction. Post-operative course 
repordedly uncomplicated until today, when she developed new 
onset nausea and vomiting. At ___ scan c/f SBO, no 
e/o pelvic abscess. Shewas afebrile with normal WBC count.

An NG tube was placed prior to transfer to ___.

Upon arrival, she reports throat soreness from NGT though denies
nausea currently.  Intermittent cramping abd pain.  Last flatus
yesterday.  Last BM also yesterday and wnl.  Denies fevers,
chills, chest pain, shortness of breath.  

 
Past Medical History:
Past Surgical History: 
- ___: Total laparoscopic hysterectomy, right salpingo-
oophorectomy, lysis of adhesions, cystoscopy and repair of
2nd degree perineal laceration, oversew of the rectosigmoid
serosa x2 and oversew of the small bowel serosa x2.
- left salpingo-oophorectomy in ___ in the ___ for
dermoid cyst

OB History:  She is gravida 0.

Gynecologic History:  She is currently not sexually active.  She
has never had an abnormal Pap smear.  Her last Pap smear was
___ and was negative. History of dermoid cyst.

 
Social History:
___
Family History:
  Her mother has hypertension and her sister has heart disease; 
however, there is no cancer in the family.

 
Physical Exam:
On day of discharge

Gen - NAD
CV - RRR
Lungs - CTAB
Abd - soft, NT, ND, no r/g, +Bowel sounds
Inc - port site incisions healing well, no drainage or erythema
Ext - nontender, no edema
 
Pertinent Results:
___ 07:52AM BLOOD WBC-5.7 RBC-3.88* Hgb-10.3* Hct-32.2* 
MCV-83 MCH-26.5 MCHC-32.0 RDW-17.2* RDWSD-51.8* Plt ___
___ 07:52AM BLOOD Glucose-113* UreaN-6 Creat-0.5 Na-145 
K-3.6 Cl-110* HCO3-26 AnGap-13
 
Brief Hospital Course:
Ms. ___ was admitted to the gyn/onc service with an SBO. An 
NGT had placed for bowel rest/decompression in the ED prior to 
transfer. Her abdominal exam showed no peritoneal signs during 
her stay and she remained afebrile with a normal white blood 
cell count. She was managed conservatively and began passing 
flatus and having dropping NGT output on hospital day 3. On 
hospital day 4, she had minimal NGT output and minimal residual 
after a clamp trial. She subsequently had a bowel movement. Her 
NGT was removed and her diet was slowly advanced. She was seen 
by a nutrition  consult to educate her about a low residue diet 
to follow for a period of time after discharge. 

On hospital day #5, she was tolerating a regular diet. She  
continued to pass flatus and bowel movements and had a normal 
abdominal exam. She  was discharged home in stable condition. 

 
Medications on Admission:
CALCIUM CITRATE-VITAMIN D3 [CALCIUM CITRATE + D] - Calcium
Citrate + D 315 mg-200 unit tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Vitamin B-12 
1,000
mcg tablet. 1 tablet(s) by mouth once a day -  (Prescribed by
Other Provider)
FERROUS SULFATE - ferrous sulfate 325 mg (65 mg iron) tablet. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*1 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___

You were admitted to the gynecology oncology service for 
management of a small bowel obstruction. You were managed 
conservatively with antiemetics, pain medications, and an NG 
tube. You had return of bowel function and your diet was 
advanced. You have recovered well and the team feels that you 
are safe to be discharged home. Please follow the instructions:
.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium. 
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs. 
* Please eat a low residual diet (avoid high-fiber foods, like 
whole-grain breads and cereals, nuts, seeds, raw or dried 
fruits, and vegetables). Please continue this diet for ___ 
days. If symptoms resume such as pain and cramping, please 
resume low residual diet and call office.
* It is safe to walk up stairs. 
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___